US03970704
6-ethoxy-2,6-dimethylheptan-1-al
Using 7-ethoxy-3,7-dimethyloctan-1-al as the starting material in the process of either Example 9, 10 or 11, there is prepared 10-ethoxy-6,10-dimethylundec-3-en-2-one.

reactant | 7-ethoxy-3,7-dimethyloctan-1-al | C(C)OC(CCCC(CC=O)C)(C)C | C12H24O2
reactant | 10-ethoxy-6,10-dimethylundec-3-en-2-one | C(C)OC(CCCC(CC=CC(C)=O)C)(C)C | C15H28O2
product | 6-ethoxy-2,6-dimethylheptan-1-al | C(C)OC(CCCC(C=O)C)(C)C | C11H22O2
